US06632810B2
6-Nitro-2,3,4-trimethoxybenzaldehyde (4.0 g) was dissolved in methanol (40 mL) and THF (20 mL), 10% palladium on carbon was added to the solution, and the mixture was stirred at room temperature for 5 hours under a hydrogen atmosphere. After the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4 to 1:3) to obtain 6-amino-2,3,4-trimethoxybenzaldehyde (3.1 g). This product was immediately dissolved in dichloromethane (35 mL), and triethylamine (4.2 mL) was added thereto. Chloroacetyl chloride (1.78 mL) was added dropwise under ice cooling, and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with chloroform, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the extract under reduced pressure, the residue was purified by column chromatography on silica gel (ethyl acetate:hexane 1:4 to 1:3) to obtain the title compound.

reactant | 6-Nitro-2,3,4-trimethoxybenzaldehyde | 4.0 g | [N+](=O)([O-])C1=CC(=C(C(=C1C=O)OC)OC)OC | C10H11NO6
solvent | methanol | 40 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-amino-2,3,4-trimethoxybenzaldehyde | 3.1 g | NC1=CC(=C(C(=C1C=O)OC)OC)OC | C10H13NO4
